US04006243
2.8 g. of sodium hydroxide in 10 ml. of water and 13.6 g. of 2,4-dichlorobenzyl alcohol are added to 8 g. of 4-hydroxyphenethyl alcohol in 80 ml. of ethanol. After refluxing the solution for 1.5 hours, the mixture is acidified with dilute sulfuric acid and extracted with methylene chloride. Drying and evaporation of the solvent yields the crude product at 100°-130° (air bath temperature)//0.02 torr by distillation with the use of a bulb tube. From cyclohexane, 14.5 g. of 4-(2,4-dichlorobenzyloxy)-phenethyl alcohol is obtained, m.p. 55°. The alcohol is converted, by 10 minutes of heating with thionyl chloride, into the [4-(β-chloroethyl)-phenyl]-(2,4-dichlorobenzyl)-ether and added to a solution of sodium imidazole, obtained by reacting 2 g. of imidazole with 1.04 g. of 80% strength sodium hydride - oil suspension in 30 ml. of dimethylformamide; the mixture is agitated for 6 hours at 100°-120° . The product is worked up as indicated in Example 56.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,4-dichlorobenzyl alcohol | ClC1=C(CO)C=CC(=C1)Cl | C7H6Cl2O
reactant | 4-hydroxyphenethyl alcohol | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(2,4-dichlorobenzyloxy)-phenethyl alcohol | ClC1=C(COC2=CC=C(CCO)C=C2)C=CC(=C1)Cl | C15H14Cl2O2
